US06140351
To a solution of 1-amino-2-methyl-2-propanol (4.0 g, 45 mmol) in CH2Cl2 (25 mL) at 0° C. was added a solution of ethyl isocyanate (3.2 g, 45 mmol) in CH2Cl2 (5 mL) dropwise. The mixture was stirred at ambient temperature for 18 hours, then concentrated of all volatiles in vacuo to afford a quantitative yield of N-(2-methyl-2-hydroxypropyl)-N'-ethylurea as a yellow solid; NMR (DMSO-d6 /TFA) 5.9 (m. 1), 5.7 (m, 1), 3.0 (m, 2), 2.9 (d, 2), 1.0 (s, 6), 0.9 (t, 3) ppm.

reactant | 1-amino-2-methyl-2-propanol | 45 mmol, 4.0 g | NCC(C)(O)C | C4H11NO
reactant | ethyl isocyanate | 45 mmol, 3.2 g | C(C)N=C=O | C3H5NO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(2-methyl-2-hydroxypropyl)-N'-ethylurea | quantitative yield | CC(CNC(=O)NCC)(C)O | C7H16N2O2
